US08026257B2
tert-Butyl 4-(((5-(4-cyanophenyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate.
A microwave tube was charged with tert-butyl 4-(((5-bromo-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (400 mg, 0.63 mmol), 4-cyanophenylboronic acid (280 mg, 1.90 mmol), and tetrakis(triphenylphosphine)-palladium(0) (36.6 mg, 0.032 mmol). The tube was flushed with nitrogen and treated with tetrahydrofuran (12 mL) and potassium hydroxide (1 M in water) (1.90 mL, 1.90 mmol). The tube was sealed and heated at 110° C. for 1 h via microwave. The reaction was cooled, poured into diethyl ether, washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (25%→32% EtOAc/Hex) gave 391 mg (94%) as an oil. 1H-NMR (CDCl3, 500 MHz) δ 8.16 (s, 1H), 7.76 (d, J=1.2 Hz, 1H), 7.71 (d, J=8.2 Hz, 2H), 7.61 (d, J=8.6 Hz, 2H), 7.40 (m, 2H), 7.31 (m, 3H), 7.19 (m, 1H), 5.70 (s, 2H), 4.92 (s, 2H), 3.73 (br, 2H), 3.63 (t, J=8.2 Hz, 2H), 3.59 (s, 2H), 3.06 (m, 2H), 2.22 (m, 2H), 1.94 (m, 2H), 1.40 (s, 9H), 0.94 (t, J=8.2 Hz, 2H), −0.03 (s, 9H); 13C-NMR (CDCl3, 126 MHz) δ 155.1, 146.8, 146.3, 143.2, 133.4, 132.6, 129.5, 128.5, 127.8, 127.4, 126.3, 123.8, 122.7, 122.6, 119.1, 118.1, 110.5, 82.0, 79.9, 79.4, 68.9, 67.7, 41.8, 40.3 (br), 32.2, 28.6, 17.9, −1.3.

reactant | tert-butyl 4-(((5-bromo-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.63 mmol, 400 mg | BrC1=CC2=CN(N=C2C(=C1)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)COCC[Si](C)(C)C | C31H44BrN3O4Si
reactant | 4-cyanophenylboronic acid | 1.90 mmol, 280 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
reactant | potassium hydroxide | 1.90 mmol, 1 M, 1.90 mL | [OH-].[K+]
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.032 mmol, 36.6 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | diethyl ether | C(C)OCC | C4H10O
product | tert-Butyl 4-(((5-(4-cyanophenyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | C(#N)C1=CC=C(C=C1)C1=CC2=CN(N=C2C(=C1)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)COCC[Si](C)(C)C | C38H48N4O4Si
